US07645760B2
b) 6-Nitroquinolin-7-carbaldehyde
7-Methyl-6-nitroquinolin (1.22 g; 6.5 mmol) and tert.butoxy-bis(dimethylamino)methan (5.2 ml; 27.3 mmol) in DMF (13 ml) were heated for 15 min. in an oil bath, which was preheated to 160° C. The reaction mixture was evaporated to dryness, taken up in THF (26 ml). NalO4 (8.3 g; 39 mmol) in water (520 ml) was added at room. temperature within 1.5 h and after stirring for another 1 h the reaction mixture was extracted with EtOAc twice. The combined organic phases were dried over Na2SO4, evaporated and purified via chromatography (SiO2; TBME) to yield the title compound as a yellow foam (920 mg; 70%).

reactant | 7-Methyl-6-nitroquinolin | 6.5 mmol, 1.22 g | CC1=C(C=C2C=CC=NC2=C1)[N+](=O)[O-] | C10H8N2O2
reactant | tert.butoxy-bis(dimethylamino)methan | 27.3 mmol, 5.2 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
product | 6-Nitroquinolin-7-carbaldehyde | 920 mg, 70% | [N+](=O)([O-])C=1C=C2C=CC=NC2=CC1C=O | C10H6N2O3
